US06114361
Step B: (5R)-5-(tert-Butyl-dimethylsilanyloxymethyl)-3-(4-methoxyphenyl)-2-oxo-2,5-dihydropyrrole-1-carboxylic acid tert-butyl ester
The diethanolamine complex of 4-methoxyphenyl boronic acid (2.5 grams, 11 mmol) was stirred in a mixture of diisopropyl ether (50 mL) and 1.5M aqueous hydrochloric acid solution (30 mL) for 2 hours. After separation of the aqueous layer, toluene (50 mL) was added and the mixture was concentrated to remove most of the diisopropyl ether. (5R)-3-Bromo-5-(tert-butyl-dimethylsilanyloxymethyl)-2-oxo-2,5-dihydropyrrole-1 -carboxylic acid tert-butyl ester (3.0 grams, 7.38 mmol), toluene (150 mL), and a solution of sodium carbonate (850 mg, 8 mmole) in water (20 mL) were added. After purging the solution of oxygen, tetrakis(triphenylphosphene)palladium (0) (250 mg) was added and the mixture was heated at reflux for 2.5 hours. The mixture was cooled and diluted with toluene and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and concentrated to a brown oil. The title compound (1.7 grams, 53%), was isolated by flash chromatography on silica gel eluting with methylene chloride.

reactant | 4-methoxyphenyl boronic acid | 11 mmol, 2.5 grams | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | (5R)-3-Bromo-5-(tert-butyl-dimethylsilanyloxymethyl)-2-oxo-2,5-dihydropyrrole-1 -carboxylic acid tert-butyl ester | 7.38 mmol, 3.0 grams | C(C)(C)(C)OC(=O)N1C(C(=C[C@@H]1CO[Si](C)(C)C(C)(C)C)Br)=O | C16H28BrNO4Si
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 8 mmole, 850 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | diisopropyl ether | 50 mL | C(C)(C)OC(C)C | C6H14O
solvent | hydrochloric acid | 1.5M, 30 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
product | (5R)-5-(tert-Butyl-dimethylsilanyloxymethyl)-3-(4-methoxyphenyl)-2-oxo-2,5-dihydropyrrole-1-carboxylic acid tert-butyl ester | 1.7 grams, 53% | C(C)(C)(C)OC(=O)N1C(C(=C[C@@H]1CO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)OC)=O | C23H35NO5Si
